US04269846
In the same way as above, ethyl-indene-2-carboxylate was reacted with hydrazine and phosgene to give 2-(2-oxo-3H-1,3,4-oxadiazole-5-yl)indene.

reactant | ethyl-indene-2-carboxylate | C(C)OC(=O)C=1CC2=CC=CC=C2C1 | C12H12O2
reactant | hydrazine | NN | H4N2
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
product | 2-(2-oxo-3H-1,3,4-oxadiazole-5-yl)indene | O=C1OC(=NN1)C=1CC2=CC=CC=C2C1 | C11H8N2O2
